US08633173B2
4-[2-(4-Piperidin-4-yl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridine-8-yl]benzonitrile was prepared from 4-{4-[8-(4-cyano-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (0.181 g, 0.366 mmol) and trifluoroacetic acid (0.500 mL) in a manner analogous to Example 312 to give product (0.130 g, 90%). MP=228-232° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.70 (s, 1H), 8.85 (d, 1H), 8.40 (d, 2H), 8.00 (m, 3H), 7.62 (d, 2H), 7.15 (m, 3H), 3.05 (m, 2H), 2.60 (br m, 4H), 1.65 (m, 2H), 1.45 (m, 2H). MS=395 (MH)+.

reactant | 4-{4-[8-(4-cyano-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.366 mmol, 0.181 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)C#N)=N1 | C29H30N6O2
reactant | trifluoroacetic acid | 0.500 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[2-(4-Piperidin-4-yl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridine-8-yl]benzonitrile | N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C#N)C=C2)=N1 | C24H22N6
